US07307084B2
U. 2-Cyclopropyl-7-hydroxy-6-(3-hydroxy-3-phenyl-propyl)-3-methyl-3H-benzimidazole-5-carboxylic Acid Dimethylamide
A solution of 1.5 g (4.0 mmol) 2-cyclopropyl-7-hydroxy-3-methyl-6-(3-oxo-3-phenyl-propyl)-3H-benzoimidazole-5-carboxylic acid dimethylamide in ethanol (22 ml) was treated with 283 mg (6.3 mmol) sodium borohydride and the reaction was stirred at room temperature for 3 h. A saturated ammonium chloride solution was added, the reaction was poured into water and extracted with dichloromethane (3×100 ml). The organic layers were dried over magnesium sulphate and concentrated in vacuo to afford 1.5 g (100%) of the title compound as a orange-brown solid. m.p. 92+-94° C.

reactant | 2-cyclopropyl-7-hydroxy-3-methyl-6-(3-oxo-3-phenyl-propyl)-3H-benzoimidazole-5-carboxylic acid dimethylamide | 4.0 mmol, 1.5 g | CN(C(=O)C1=CC2=C(N=C(N2C)C2CC2)C(=C1CCC(C1=CC=CC=C1)=O)O)C | C23H25N3O3
reactant | sodium borohydride | 6.3 mmol, 283 mg | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | water | O | H2O
solvent | ethanol | 22 ml | C(C)O | C2H6O
product | 2-Cyclopropyl-7-hydroxy-6-(3-hydroxy-3-phenyl-propyl)-3-methyl-3H-benzimidazole-5-carboxylic Acid Dimethylamide | 1.5 g, 100% | CN(C(=O)C1=CC2=C(N=C(N2C)C2CC2)C(=C1CCC(C1=CC=CC=C1)O)O)C | C23H27N3O3
